US06875771B2
2-(2-Chloro-benzenesulfonyl)-3,3-bis-methylsulfonyl-acrylonitrile
The titled compound was prepared in an analogous fashion to Intermediate 2 except that 2-(2-chlorobenzenesulfonyl) acetonitrile is utilized in place of 2-(4-chlorobenzenesulfonyl) acetonitrile.

reactant | 2-(2-chlorobenzenesulfonyl) acetonitrile | ClC1=C(C=CC=C1)S(=O)(=O)CC#N | C8H6ClNO2S
reactant | 2-(4-chlorobenzenesulfonyl) acetonitrile | ClC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6ClNO2S
product | 2-(2-Chloro-benzenesulfonyl)-3,3-bis-methylsulfonyl-acrylonitrile | ClC1=C(C=CC=C1)S(=O)(=O)C(C#N)=C(S(=O)(=O)C)S(=O)(=O)C | C11H10ClNO6S3
